US07566736B2
3.28 g of palladium-on-charcoal are added to a suspension of 3.42 g (6.82 mmol) of 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-7-nitro-1H-indole-2-carboxamide in 480 ml of methanol. The reaction mixture is hydrogenated at 30° C. under 3 bar for 2 h in an autoclave, and is then filtered over yridi. The filtrate is evaporated to dryness under reduced pressure. The residue obtained is triturated with ethyl acetate and a small amount of methylene chloride and then filtered. 1.30 g of 7-amino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-indole-2-carboxamide are obtained in the form of a gray solid.

reactant | 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-7-nitro-1H-indole-2-carboxamide | 6.82 mmol, 3.42 g | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=C(NC2=C(C=CC=C12)[N+](=O)[O-])C(=O)N)=O | C23H15F4N5O4
solvent | methanol | 480 ml | CO | CH4O
catalyst | palladium-on-charcoal | 3.28 g | [Pd] | Pd
product | 7-amino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-indole-2-carboxamide | 1.30 g | NC=1C=CC=C2C(=C(NC12)C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C23H17F4N5O2
